US06204264B1
1-[3-(Dimethylamino)propyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide monohydrochloride (Compound 20)
4N Hydrochloric acid/ethyl acetate solution (0.45 ml) was added to a solution containing 1-[3-(dimethylamino)propyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide (0.90 g) in ethyl acetate (10 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (0.70 g) as grayish yellow solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.45 ml | Cl.C(C)(=O)OCC
reactant | 1-[3-(dimethylamino)propyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide | 0.90 g | CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)NC)CCCCCCCCCCCCCCCCC)C | C31H54N4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-(Dimethylamino)propyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide monohydrochloride | 0.70 g | Cl.CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)NC)CCCCCCCCCCCCCCCCC)C | InChI=1S/C31H54N4O.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-30-33-28-26-27(31(36)32-2)22-23-29(28)35(30)25-20-24-34(3)4;/h22-23,26H,5-21,24-25H2,1-4H3,(H,32,36);1H
